2146-11-08 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-11-7**] 01:30 PM
 ARTERIAL LINE - START [**2146-11-7**] 05:28 PM
 MULTI LUMEN - START [**2146-11-7**] 06:09 PM
 BLOOD CULTURED - At [**2146-11-7**] 10:15 PM
 EKG - At [**2146-11-8**] 06:59 AM
   - ECHO: EF 20%, severe global left ventricular hypokinesis, RV cavity
   slightly larger and with more severe free wall hypokinesis - compared
   with [**2146-9-11**]; moderate MR, severe TR, moderate pulm artery systolic
   hypertension
   - A line placed
   - RIJ placed
   - overnight tachy to 120, afebrile, CVP 15, d/c
d Lasix gtt, started on
   Neo
   - MAP 50s, d/c
d Milrinone, switched Neo to Levophed
   Pt was feeling unwell this AM
 feeling weak and lightheaded. No SOB or
   CP.
   PEA arrest this AM at 8:15. Pt was started on 3 pressors and intubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 5 mcg/Kg/min
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2146-11-7**] 08:40 PM
   Omeprazole (Prilosec) - [**2146-11-7**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-11-8**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-8**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 118 (71 - 118) bpm
   BP: 77/48(58) {74/47(55) - 129/67(85)} mmHg
   RR: 22 (14 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.4 kg (admission): 94.4 kg
   Height: 66 Inch
    CVP: 21 (15 - 21)mmHg
   Total In:
                                                                    814 mL
                                                                    411 mL
   PO:
                                                                    180 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    634 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    670 mL
   Urine:
                                                                    470 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    294 mL
                                                                   -259 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 12 cm.
   CARDIAC: distant heart sounds. RRR, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. decreased breath sounds at bases
   right >left, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: +3 edema to thigh, wwp,
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   Labs / Radiology
   291 K/uL
   11.4 g/dL
   120 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.4 mEq/L
   37 mg/dL
   95 mEq/L
   127 mEq/L
   33.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2146-11-7**]  02:00 PM
                            [**2146-11-8**]  05:19 AM
   WBC
   10.4
   9.8
   Hct
   37.7
   33.3
   Plt
   290
   291
   Cr
   1.6
   1.6
   Glucose
   113
   120
   Other labs: PT / PTT / INR:17.3/44.5/1.5, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   This is a 67 F with DM, 2VCAD, CKD, and ischemic CMP (EF (20-25%)
   presenting with hyperglycemia after missing insulin for several days.
   Hyperglycemia corrected but admitted to CCU for hypotension. s/p PEA
   arrest this AM.
   .
   # s/p PEA arrest
 SBP 70s on 3 pressors after PEA arrest. Pt has
   end-stage heart failure. Balloon pump not an option as the patient
   cannot be bridged to other therapy. CAD is not intervenable.
   - maintain on 3 pressors for now
   - sedation with fentanyl, versed
   - family discussion regarding level of care
 no planned escalation of
   care
   .
   .
   #FEN: replete electrolytes
   #Prophylaxis: Subcutaneous heparin
   #Access: RIJ
   #Code: DNR, hcp is [**Name2 (NI) **] [**Name (NI) 1125**] [**Name (NI) 803**] [**Telephone/Fax (1) 11047**]
   #Communication: [**Telephone/Fax (1) 843**]
   #Disposition: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-11-7**] 01:23 PM
   20 Gauge - [**2146-11-7**] 01:25 PM
   Arterial Line - [**2146-11-7**] 05:28 PM
   Multi Lumen - [**2146-11-7**] 06:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2351**].
   I would add the following remarks:
   History
   67 yr old woman with DM and severe ischemic cardiomyopathy with EF 20%.
   Reviewed cath films showing severe 3VD with PCW 43 and unsuccessful PCI
   of LAD and turned down for CABG for poor targets.
   Transferred to CCU with hypotension.
   Tried diuresis overnight with Milrinone, lasix and neo drips but
   resulted in minimal diuresis, sig tachycardia and hypotension.
   This AM PEA arrest resulting in CPR and intubation and multiple
   pressors.
   Physical Examination
   unresponsive.
   ++ JVD
   3+ edema
   Medical Decision Making
   Hopeless prognosis with severe ischemic CM now with unrelenting fluid
   overload and hypotension and no possibility for revascularization.
   IABP or Impella discussed but not felt to be indicated in view of poor
   prognosis and no possibility for revasc.
   Will discuss with family who has requested DNR status.
   Anticipate death in near future.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2146-11-8**] 11:03 ------

2146-11-09 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIAC ARREST - At [**2146-11-8**] 08:25 AM
 INVASIVE VENTILATION - START [**2146-11-8**] 08:30 AM
   - hypotensive in am: stopped lasix and milrinone gtt, increased neo and
   started phenylephrine; gave total of 1 L fluid bolus
   - PEA with respiratory arrest at 8am: requiring 4 pressors:
   dopa/neo/levo/vasopressin
   - made DNR/DNI
   - pm labs show profound anion gap metabolic acidosis with high lactate,
   well- compensated by ventilator settings
   - changed omeprazole to IV protonix as could not crush pills
   - weaned pressors to just levo
   - Family meeting. Awaiting estranged son to arrive overnight at 11pm,
   but never showed. Will need to discuss with [**Year (4 digits) **] goals of care again
   in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2146-11-8**] 09:20 AM
   Pantoprazole (Protonix) - [**2146-11-9**] 12:53 AM
   Heparin Sodium (Prophylaxis) - [**2146-11-9**] 12:53 AM
   Other medications:
   Changes to medical and family history:
   No change from prior
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-9**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 108 (91 - 154) bpm
   BP: 84/63(70) {61/42(49) - 101/73(82)} mmHg
   RR: 18 (7 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.4 kg (admission): 94.4 kg
   Height: 66 Inch
    CVP: 19 (14 - 24)mmHg
   Total In:
                                                                  4,438 mL
                                                                    310 mL
   PO:
                                                                     90 mL
   TF:
   IVF:
                                                                  4,188 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                    724 mL
                                                                     51 mL
   Urine:
                                                                    724 mL
                                                                     51 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,714 mL
                                                                    259 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.47/25/134/20/-2
   Ve: 9 L/min
   PaO2 / FiO2: 335
   Physical Examination
   GENERAL: intubated and sedated, no spontaneous movement and no
   withdrawl from pain
   HEENT: NCAT. Sclera anicteric. 1mm pupils b/l minimally reactive. No
   Dolls relfex. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple with JVP of 12 cm.
   CARDIAC: distant heart sounds. RRR, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. decreased breath sounds at bases
   right >left, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: +3 edema to thigh, wwp,
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   Labs / Radiology
   335 K/uL
   11.7 g/dL
   207 mg/dL
   2.5 mg/dL
   20 mEq/L
   4.7 mEq/L
   41 mg/dL
   93 mEq/L
   125 mEq/L
   35.7 %
   11.1 K/uL
        [image002.jpg]
                            [**2146-11-8**]  08:45 AM
                            [**2146-11-8**]  09:08 AM
                            [**2146-11-8**]  10:08 AM
                            [**2146-11-8**]  11:58 AM
                            [**2146-11-8**]  12:05 PM
                            [**2146-11-8**]  05:57 PM
                            [**2146-11-8**]  06:00 PM
                            [**2146-11-8**]  09:30 PM
                            [**2146-11-9**]  05:20 AM
                            [**2146-11-9**]  05:35 AM
   WBC
   11.1
   Hct
   35.7
   Plt
   335
   Cr
   2.1
   2.5
   TropT
   0.58
   TCO2
   17
   12
   12
   11
   15
   16
   19
   Glucose
   139
   112
   251
   [**Telephone/Fax (3) 12308**]
   Other labs: PT / PTT / INR:18.2/34.5/1.6, CK / CKMB /
   Troponin-T:129/19/0.58, ALT / AST:77/107, Alk Phos / T Bili:89/1.9,
   Lactic Acid:3.6 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 KNOWLEDGE DEFICIT
 CARDIAC ARREST
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE II
   This is a 67 F with DM, 2VCAD, CKD, and ischemic CMP (EF (20-25%)
   presenting with hyperglycemia after missing insulin for several days.
   Hyperglycemia corrected but admitted to CCU for hypotension. s/p PEA
   arrest this AM.
   .
   # s/p PEA arrest
 Family discussion held and patient DNR/DNI. No
   further plans for escalation of care.  Pt with minimal neurologic
   function.  Pt pressors were weaned overnight to levo. Pt has end-stage
   heart failure. Balloon pump not an option as the patient cannot be
   bridged to other therapy. CAD is not intervenable.
   - maintain MAPS > 60 and wean levo as tolerated
   - hold sedation, fentanyl, versed and monitor mental status
   - wean vent as tolerated
   - family discussion regarding level of care and possible CMO. Pt son
   was coming overnight, but did not come. Will need to discuss with
   family regarding goals of care.
   - no planned escalation of care
   .
   .
   #FEN: replete electrolytes
   #Prophylaxis: Subcutaneous heparin
   #Access: RIJ
   #Code: DNR/DNI, hcp is [**Name2 (NI) **] [**Name (NI) 1125**] [**Name (NI) 803**] [**Telephone/Fax (1) 11047**]
   #Communication: [**Telephone/Fax (1) 843**]
   #Disposition: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2146-11-7**] 01:23 PM
   Arterial Line - [**2146-11-7**] 05:28 PM
   Multi Lumen - [**2146-11-7**] 06:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   Unresponsive since PEA arrest yesterday.
   Continues on Levophed but off other pressors.
   No significant urine output.
   Physical Examination
   unresponsive
   3+ peripheral edema
   Medical Decision Making
   Discussed poor prognosis with family.
   Awaiting arrival of son, closest [**Name2 (NI) 372**].
   Will discuss withdrawing pressor support.
   Family requested DNR status.
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2146-11-9**] 10:23 ------